US05801008
(2) Synthesis of dimethyl 4-amino-1-phenyl-3-(thiophen-2-yl)pyrazolo[3,4-b]pyridine-5,6-dicarboxylat
A dimethylsulfoxide (20 ml) solution of 10.0 g (70 mmol) of dimethyl acetylenedicarboxylate was dropwise added to a mixture comprised of 2.66 g (10 mmol) of 5-amino-1-phenyl-3-(thiophen-2-yl)pyrazole-4-carbonitrile, 27.6 g (200 mmol) of anhydrous potassium carbonate and 300 ml of dimethylsulfoxide, while cooling with ice, over a period of 30 minutes, and then stirred for further 60 hours at room temperature. During the stirring, the reaction liquid was changed from brown to greenish brown. After the reaction, the liquid reaction mixture was poured into 500 ml of water with ice and stirred for 30 minutes at room temperature. The blackish brown solid thus precipitated was taken out by filtration, dried in air and added to 20 ml of methanol. The white crystals thus formed were taken out by filtration and recrystallized from methanol to obtain 3.50 g of the entitled product as colorless crystals having a melting point of 178° to 180° C.

reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | dimethyl acetylenedicarboxylate | 70 mmol, 10.0 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 5-amino-1-phenyl-3-(thiophen-2-yl)pyrazole-4-carbonitrile | 10 mmol, 2.66 g | NC1=C(C(=NN1C1=CC=CC=C1)C=1SC=CC1)C#N | C14H10N4S
reactant | potassium carbonate | 200 mmol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | dimethyl 4-amino-1-phenyl-3-(thiophen-2-yl)pyrazolo[3,4-b]pyridine-5,6-dicarboxylat | 3.50 g | NC1=C2C(=NC(=C1C(=O)OC)C(=O)OC)N(N=C2C=2SC=CC2)C2=CC=CC=C2 | C20H16N4O4S
